US07781440B2
9.1 8,8-Dimethyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one
A mixture of 2.39 g (12.31 mmol) of ethyl 3-(4-pyrimidinyl)-3-oxopropionate, (prepared by analogy to the method described in patent DE 2705582), 2.33 g (11.19 mmol) 6,6-dimethyl-1,4,5,6-tetrahydro-pyrimidin-2-ylamine hydrobromide

reactant | ethyl 3-(4-pyrimidinyl)-3-oxopropionate | 12.31 mmol, 2.39 g | N1=CN=C(C=C1)C(CC(=O)OCC)=O | C9H10N2O3
reactant | 6,6-dimethyl-1,4,5,6-tetrahydro-pyrimidin-2-ylamine hydrobromide | 11.19 mmol, 2.33 g | Br.CC1(CCN=C(N1)N)C
product | 8,8-Dimethyl-2-(pyrimidin-4-yl)-6,7,8,9-tetrahydro-pyrimido[1,2-a]pyrimidin-4-one | CC1(NC=2N(C(C=C(N2)C2=NC=NC=C2)=O)CC1)C | C13H15N5O
